** Name: SimpleTwoStageOpAmp_SimpleOpAmp37_10

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp37_10 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=9e-6 W=10e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=7e-6 W=7e-6
mDiodeTransistorPmos3 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=3e-6 W=149e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=10e-6 W=61e-6
mNormalTransistorNmos5 out ibias sourceNmos sourceNmos nmos4 L=9e-6 W=594e-6
mNormalTransistorNmos6 inputVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=9e-6 W=510e-6
mNormalTransistorNmos7 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=9e-6 W=13e-6
mNormalTransistorNmos8 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=9e-6 W=60e-6
mNormalTransistorNmos9 FirstStageYinnerSourceLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=9e-6 W=13e-6
mNormalTransistorNmos10 FirstStageYinnerStageBias ibias sourceNmos sourceNmos nmos4 L=9e-6 W=10e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance outVoltageBiasXXnXX1 FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=7e-6 W=32e-6
mNormalTransistorPmos12 out inputVoltageBiasXXpXX1 SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=3e-6 W=599e-6
mNormalTransistorPmos13 outFirstStage inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=3e-6 W=20e-6
mNormalTransistorPmos14 outVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=10e-6 W=20e-6
mNormalTransistorPmos15 FirstStageYinnerSourceLoad1 inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=3e-6 W=20e-6
mNormalTransistorPmos16 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=5e-6 W=36e-6
mNormalTransistorPmos17 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=5e-6 W=36e-6
mNormalTransistorPmos18 SecondStageYinnerTransconductance outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=273e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp37_10

** Expected Performance Values: 
** Gain: 100 dB
** Power consumption: 5.93601 mW
** Area: 14970 (mu_m)^2
** Transit frequency: 3.38001 MHz
** Transit frequency with error factor: 3.3796 MHz
** Slew rate: 4.2595 V/mu_s
** Phase margin: 79.6412°
** CMRR: 105 dB
** negPSRR: 105 dB
** posPSRR: 97 dB
** VoutMax: 4.25 V
** VoutMin: 0.320001 V
** VcmMax: 5.21001 V
** VcmMin: 1.49001 V


** Expected Currents: 
** NormalTransistorNmos: 59.0181 muA
** NormalTransistorNmos: 504.285 muA
** NormalTransistorPmos: -19.7149 muA
** NormalTransistorPmos: -4.91899 muA
** NormalTransistorPmos: -4.91999 muA
** NormalTransistorPmos: -4.91899 muA
** NormalTransistorPmos: -4.91999 muA
** NormalTransistorNmos: 9.83601 muA
** NormalTransistorNmos: 9.83701 muA
** NormalTransistorNmos: 4.91801 muA
** NormalTransistorNmos: 4.91801 muA
** NormalTransistorNmos: 584.275 muA
** NormalTransistorPmos: -584.274 muA
** NormalTransistorPmos: -584.275 muA
** DiodeTransistorNmos: 19.7141 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -59.0189 muA
** DiodeTransistorPmos: -504.284 muA


** Expected Voltages: 
** ibias: 0.730001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.68601  V
** out: 2.5  V
** outFirstStage: 4.08901  V
** outVoltageBiasXXnXX1: 0.889001  V
** outVoltageBiasXXpXX0: 3.69701  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 4.24001  V
** innerStageBias: 0.325001  V
** innerTransistorStack1Load1: 4.45301  V
** innerTransistorStack2Load1: 4.45301  V
** sourceTransconductance: 1.89401  V
** innerTransconductance: 4.65301  V


.END