** Name: SimpleTwoStageOpAmp_SimpleOpAmp39_7

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp39_7 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=5e-6 W=9e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=8e-6 W=37e-6
mDiodeTransistorPmos3 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=1e-6 W=454e-6
mDiodeTransistorPmos4 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=5e-6 W=68e-6
mDiodeTransistorPmos5 FirstStageYout1 FirstStageYout1 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=8e-6 W=68e-6
mNormalTransistorNmos6 out ibias sourceNmos sourceNmos nmos4 L=5e-6 W=560e-6
mNormalTransistorNmos7 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=16e-6
mNormalTransistorNmos8 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=5e-6 W=215e-6
mNormalTransistorNmos9 FirstStageYinnerStageBias ibias sourceNmos sourceNmos nmos4 L=5e-6 W=10e-6
mNormalTransistorNmos10 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=16e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance outVoltageBiasXXnXX1 FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=8e-6 W=20e-6
mNormalTransistorPmos12 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=61e-6
mNormalTransistorPmos13 outFirstStage FirstStageYout1 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 pmos4 L=8e-6 W=68e-6
mNormalTransistorPmos14 outVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=1e-6 W=175e-6
mNormalTransistorPmos15 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=5e-6 W=68e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp39_7

** Expected Performance Values: 
** Gain: 88 dB
** Power consumption: 4.85201 mW
** Area: 7076 (mu_m)^2
** Transit frequency: 4.85301 MHz
** Transit frequency with error factor: 4.85125 MHz
** Slew rate: 4.78545 V/mu_s
** Phase margin: 71.0468°
** CMRR: 107 dB
** negPSRR: 98 dB
** posPSRR: 94 dB
** VoutMax: 4.25 V
** VoutMin: 0.25 V
** VcmMax: 3.93001 V
** VcmMin: 1.45001 V


** Expected Currents: 
** NormalTransistorNmos: 239.079 muA
** NormalTransistorPmos: -90.8059 muA
** DiodeTransistorPmos: -5.56099 muA
** NormalTransistorPmos: -5.56199 muA
** NormalTransistorPmos: -5.56099 muA
** DiodeTransistorPmos: -5.56199 muA
** NormalTransistorNmos: 11.1191 muA
** NormalTransistorNmos: 11.1181 muA
** NormalTransistorNmos: 5.56001 muA
** NormalTransistorNmos: 5.56001 muA
** NormalTransistorNmos: 619.357 muA
** NormalTransistorPmos: -619.356 muA
** DiodeTransistorNmos: 90.8051 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -239.078 muA


** Expected Voltages: 
** ibias: 0.660001  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outVoltageBiasXXnXX1: 0.889001  V
** outVoltageBiasXXpXX0: 4.26501  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 4.28401  V
** innerStageBias: 0.255001  V
** innerTransistorStack1Load1: 4.28301  V
** out1: 3.52801  V
** sourceTransconductance: 1.93801  V


.END