** Name: SimpleTwoStageOpAmp_SimpleOpAmp43_10

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp43_10 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=7e-6 W=16e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX2 outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=44e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=4e-6 W=34e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=12e-6
mDiodeTransistorPmos5 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=3e-6 W=12e-6
mNormalTransistorNmos6 outFirstStage outVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=7e-6 W=21e-6
mNormalTransistorNmos7 out outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=519e-6
mNormalTransistorNmos8 outVoltageBiasXXpXX1 outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=63e-6
mNormalTransistorNmos9 FirstStageYout1 outVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=7e-6 W=21e-6
mNormalTransistorNmos10 FirstStageYsourceGCC1 outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=13e-6
mNormalTransistorNmos11 FirstStageYsourceGCC2 outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=13e-6
mNormalTransistorPmos12 outFirstStage FirstStageYout1 sourcePmos sourcePmos pmos4 L=3e-6 W=12e-6
mNormalTransistorPmos13 out outVoltageBiasXXpXX1 SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=600e-6
mNormalTransistorPmos14 outVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=4e-6 W=226e-6
mNormalTransistorPmos15 outVoltageBiasXXnXX2 ibias sourcePmos sourcePmos pmos4 L=4e-6 W=285e-6
mNormalTransistorPmos16 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=9e-6 W=197e-6
mNormalTransistorPmos17 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=9e-6 W=197e-6
mNormalTransistorPmos18 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=4e-6 W=67e-6
mNormalTransistorPmos19 SecondStageYinnerTransconductance outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=275e-6
Capacitor1 outFirstStage out 3.90001e-12
Capacitor2 out sourceNmos 10e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp43_10

** Expected Performance Values: 
** Gain: 95 dB
** Power consumption: 6.64301 mW
** Area: 8011 (mu_m)^2
** Transit frequency: 5.09201 MHz
** Transit frequency with error factor: 5.08986 MHz
** Slew rate: 4.44643 V/mu_s
** Phase margin: 70.4739°
** CMRR: 96 dB
** VoutMax: 4.25 V
** VoutMin: 0.150001 V
** VcmMax: 4.02001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorNmos: 119.993 muA
** NormalTransistorPmos: -66.6869 muA
** NormalTransistorPmos: -83.8049 muA
** NormalTransistorNmos: 14.7751 muA
** NormalTransistorNmos: 24.7611 muA
** NormalTransistorNmos: 14.7751 muA
** NormalTransistorNmos: 24.7611 muA
** DiodeTransistorPmos: -14.7759 muA
** NormalTransistorPmos: -14.7759 muA
** NormalTransistorPmos: -19.9689 muA
** NormalTransistorPmos: -9.98499 muA
** NormalTransistorPmos: -9.98499 muA
** NormalTransistorNmos: 988.502 muA
** NormalTransistorPmos: -988.501 muA
** NormalTransistorPmos: -988.502 muA
** DiodeTransistorNmos: 66.6861 muA
** DiodeTransistorNmos: 83.8041 muA
** DiodeTransistorPmos: -119.992 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.17901  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 3.98901  V
** outVoltageBiasXXnXX1: 0.995001  V
** outVoltageBiasXXnXX2: 0.555001  V
** outVoltageBiasXXpXX1: 3.68601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** out1: 3.98001  V
** sourceGCC1: 0.350001  V
** sourceGCC2: 0.350001  V
** sourceTransconductance: 3.22301  V
** innerTransconductance: 4.55301  V


.END