** Name: SimpleTwoStageOpAmp_SimpleOpAmp4_3

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp4_3 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX0 inputVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=5e-6 W=103e-6
mDiodeTransistorNmos2 FirstStageYinnerOutputLoad1 FirstStageYinnerOutputLoad1 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 nmos4 L=8e-6 W=35e-6
mDiodeTransistorNmos3 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos4 L=8e-6 W=18e-6
mDiodeTransistorPmos4 ibias ibias sourcePmos sourcePmos pmos4 L=4e-6 W=8e-6
mDiodeTransistorPmos5 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=100e-6
mNormalTransistorNmos6 out outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=18e-6
mNormalTransistorNmos7 outFirstStage FirstStageYinnerOutputLoad1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 nmos4 L=8e-6 W=35e-6
mNormalTransistorNmos8 outVoltageBiasXXpXX1 inputVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=5e-6 W=325e-6
mNormalTransistorNmos9 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos4 L=8e-6 W=18e-6
mNormalTransistorPmos10 out outVoltageBiasXXpXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias pmos4 L=1e-6 W=599e-6
mNormalTransistorPmos11 inputVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=4e-6 W=254e-6
mNormalTransistorPmos12 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=3e-6 W=19e-6
mNormalTransistorPmos13 FirstStageYinnerOutputLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=3e-6 W=19e-6
mNormalTransistorPmos14 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=4e-6 W=26e-6
mNormalTransistorPmos15 SecondStageYinnerStageBias ibias sourcePmos sourcePmos pmos4 L=4e-6 W=305e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 3.5e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp4_3

** Expected Performance Values: 
** Gain: 89 dB
** Power consumption: 8.88201 mW
** Area: 6191 (mu_m)^2
** Transit frequency: 3.91301 MHz
** Transit frequency with error factor: 3.90862 MHz
** Slew rate: 9.39982 V/mu_s
** Phase margin: 70.4739°
** CMRR: 95 dB
** negPSRR: 90 dB
** posPSRR: 93 dB
** VoutMax: 4.28001 V
** VoutMin: 0.5 V
** VcmMax: 3.52001 V
** VcmMin: 0.75 V


** Expected Currents: 
** NormalTransistorNmos: 1015.34 muA
** NormalTransistorPmos: -323.184 muA
** DiodeTransistorNmos: 16.5401 muA
** DiodeTransistorNmos: 16.5391 muA
** NormalTransistorNmos: 16.5401 muA
** NormalTransistorNmos: 16.5391 muA
** NormalTransistorPmos: -33.0809 muA
** NormalTransistorPmos: -16.5409 muA
** NormalTransistorPmos: -16.5409 muA
** NormalTransistorNmos: 384.736 muA
** NormalTransistorPmos: -384.735 muA
** NormalTransistorPmos: -384.736 muA
** DiodeTransistorNmos: 323.185 muA
** DiodeTransistorPmos: -1015.33 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 3.90501  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX0: 0.834001  V
** out: 2.5  V
** outFirstStage: 0.910001  V
** outVoltageBiasXXpXX1: 3.68601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerOutputLoad1: 1.31501  V
** innerSourceLoad1: 0.699001  V
** innerTransistorStack2Load1: 0.698001  V
** sourceTransconductance: 3.44501  V
** innerStageBias: 4.43901  V


.END