** Name: SimpleTwoStageOpAmp_SimpleOpAmp6_1

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp6_1 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 FirstStageYinnerOutputLoad1 FirstStageYinnerOutputLoad1 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 nmos4 L=4e-6 W=8e-6
mDiodeTransistorNmos2 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 sourceNmos sourceNmos nmos4 L=2e-6 W=8e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=7e-6 W=23e-6
mNormalTransistorNmos4 out outFirstStage sourceNmos sourceNmos nmos4 L=8e-6 W=140e-6
mNormalTransistorNmos5 outFirstStage FirstStageYinnerOutputLoad1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 nmos4 L=4e-6 W=8e-6
mNormalTransistorNmos6 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack2Load1 sourceNmos sourceNmos nmos4 L=2e-6 W=8e-6
mNormalTransistorPmos7 out ibias sourcePmos sourcePmos pmos4 L=7e-6 W=569e-6
mNormalTransistorPmos8 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=3e-6 W=8e-6
mNormalTransistorPmos9 FirstStageYinnerOutputLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=3e-6 W=8e-6
mNormalTransistorPmos10 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=7e-6 W=45e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp6_1

** Expected Performance Values: 
** Gain: 83 dB
** Power consumption: 1.45001 mW
** Area: 5723 (mu_m)^2
** Transit frequency: 3.00601 MHz
** Transit frequency with error factor: 3.00226 MHz
** Slew rate: 8.62816 V/mu_s
** Phase margin: 73.9116°
** CMRR: 93 dB
** negPSRR: 90 dB
** posPSRR: 96 dB
** VoutMax: 4.59001 V
** VoutMin: 0.410001 V
** VcmMax: 3.57001 V
** VcmMin: 0.660001 V


** Expected Currents: 
** DiodeTransistorNmos: 9.94301 muA
** NormalTransistorNmos: 9.94201 muA
** NormalTransistorNmos: 9.94301 muA
** DiodeTransistorNmos: 9.94201 muA
** NormalTransistorPmos: -19.8879 muA
** NormalTransistorPmos: -9.94399 muA
** NormalTransistorPmos: -9.94399 muA
** NormalTransistorNmos: 250.176 muA
** NormalTransistorPmos: -250.175 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.02201  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 0.818001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerOutputLoad1: 1.22301  V
** innerTransistorStack1Load1: 0.575001  V
** innerTransistorStack2Load1: 0.576001  V
** sourceTransconductance: 3.51901  V


.END