** Name: SimpleTwoStageOpAmp_SimpleOpAmp71_7

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp71_7 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=18e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX2 outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=98e-6
mDiodeTransistorNmos3 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos4 L=8e-6 W=25e-6
mDiodeTransistorPmos4 ibias ibias outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=3e-6 W=18e-6
mDiodeTransistorPmos5 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=3e-6 W=28e-6
mNormalTransistorNmos6 out outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=576e-6
mNormalTransistorNmos7 outFirstStage FirstStageYout1 sourceNmos sourceNmos nmos4 L=8e-6 W=25e-6
mNormalTransistorNmos8 FirstStageYinnerStageBias outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=11e-6
mNormalTransistorNmos9 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=16e-6
mNormalTransistorNmos10 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=16e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance outVoltageBiasXXnXX1 FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=5e-6 W=27e-6
mNormalTransistorPmos12 out outFirstStage sourcePmos sourcePmos pmos4 L=4e-6 W=460e-6
mNormalTransistorPmos13 outFirstStage ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=3e-6 W=123e-6
mNormalTransistorPmos14 outVoltageBiasXXnXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=3e-6 W=314e-6
mNormalTransistorPmos15 outVoltageBiasXXnXX2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=3e-6 W=541e-6
mNormalTransistorPmos16 FirstStageYout1 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=3e-6 W=123e-6
mNormalTransistorPmos17 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=3e-6 W=76e-6
mNormalTransistorPmos18 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=3e-6 W=76e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 4.40001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp71_7

** Expected Performance Values: 
** Gain: 82 dB
** Power consumption: 7.76101 mW
** Area: 7239 (mu_m)^2
** Transit frequency: 3.57301 MHz
** Transit frequency with error factor: 3.57176 MHz
** Slew rate: 4.35409 V/mu_s
** Phase margin: 70.4739°
** CMRR: 102 dB
** VoutMax: 4.25 V
** VoutMin: 0.150001 V
** VcmMax: 5.16001 V
** VcmMin: 1.41001 V


** Expected Currents: 
** NormalTransistorPmos: -114.331 muA
** NormalTransistorPmos: -194.793 muA
** NormalTransistorPmos: -16.6509 muA
** NormalTransistorPmos: -27.6719 muA
** NormalTransistorPmos: -16.6509 muA
** NormalTransistorPmos: -27.6719 muA
** DiodeTransistorNmos: 16.6501 muA
** NormalTransistorNmos: 16.6501 muA
** NormalTransistorNmos: 22.0391 muA
** NormalTransistorNmos: 22.0381 muA
** NormalTransistorNmos: 11.0201 muA
** NormalTransistorNmos: 11.0201 muA
** NormalTransistorNmos: 1167.65 muA
** NormalTransistorPmos: -1167.64 muA
** DiodeTransistorNmos: 114.332 muA
** DiodeTransistorNmos: 194.794 muA
** DiodeTransistorPmos: -9.99899 muA
** DiodeTransistorPmos: -9.99999 muA


** Expected Voltages: 
** ibias: 3.32201  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outSourceVoltageBiasXXpXX1: 4.19001  V
** outVoltageBiasXXnXX1: 1.01501  V
** outVoltageBiasXXnXX2: 0.559001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.390001  V
** out1: 0.655001  V
** sourceGCC1: 4.03601  V
** sourceGCC2: 4.03601  V
** sourceTransconductance: 1.87301  V


.END