** Name: SimpleTwoStageOpAmp_SimpleOpAmp8_8

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp8_8 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=6e-6 W=29e-6
mDiodeTransistorNmos2 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=51e-6
mDiodeTransistorPmos3 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=1e-6 W=235e-6
mDiodeTransistorPmos4 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=7e-6 W=120e-6
mNormalTransistorNmos5 out inputVoltageBiasXXnXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=4e-6 W=96e-6
mNormalTransistorNmos6 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=8e-6 W=10e-6
mNormalTransistorNmos7 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=6e-6 W=286e-6
mNormalTransistorNmos8 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=8e-6 W=10e-6
mNormalTransistorNmos9 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=6e-6 W=48e-6
mNormalTransistorNmos10 SecondStageYinnerStageBias ibias sourceNmos sourceNmos nmos4 L=6e-6 W=299e-6
mNormalTransistorPmos11 inputVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=1e-6 W=381e-6
mNormalTransistorPmos12 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=196e-6
mNormalTransistorPmos13 outFirstStage FirstStageYout1 sourcePmos sourcePmos pmos4 L=7e-6 W=120e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.60001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp8_8

** Expected Performance Values: 
** Gain: 95 dB
** Power consumption: 1.92301 mW
** Area: 7212 (mu_m)^2
** Transit frequency: 3.54901 MHz
** Transit frequency with error factor: 3.5431 MHz
** Slew rate: 6.19243 V/mu_s
** Phase margin: 70.4739°
** CMRR: 97 dB
** negPSRR: 122 dB
** posPSRR: 95 dB
** VoutMax: 4.83001 V
** VoutMin: 0.380001 V
** VcmMax: 4.68001 V
** VcmMin: 0.840001 V


** Expected Currents: 
** NormalTransistorNmos: 98.0031 muA
** NormalTransistorPmos: -156.685 muA
** DiodeTransistorPmos: -8.15999 muA
** NormalTransistorPmos: -8.15999 muA
** NormalTransistorNmos: 16.3181 muA
** NormalTransistorNmos: 8.15901 muA
** NormalTransistorNmos: 8.15901 muA
** NormalTransistorNmos: 103.662 muA
** NormalTransistorNmos: 103.661 muA
** NormalTransistorPmos: -103.661 muA
** DiodeTransistorNmos: 156.686 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -98.0039 muA


** Expected Voltages: 
** ibias: 0.561001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 0.786001  V
** out: 2.5  V
** outFirstStage: 4.26401  V
** outVoltageBiasXXpXX0: 4.28401  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** out1: 4.27201  V
** sourceTransconductance: 1.81601  V
** innerStageBias: 0.156001  V


.END